US04395406
1-Benzyl-5-fluoropyrimid-2-one
Benzyl chloride (0.01 mol) was added to a stirred mixture of the potassium salt of 5-fluoropyrimid-2-one (0.007 mol) in dimethylformamide (40 ml) and the mixture stirred at room temperature until chromatography showed the reaction to be complete. The solvent was then evaporated at reduced presure (1 mm Hg) and the residue was extracted with chloroform (100 ml). The chloroform solution was washed with aqueous 2 N NaCH (2×3 ml) and with water (3 ml) before drying (MgSO4) and evaporation; yield 50%, m.p. 163° C. (ethyl actate). (Found: C, 64.69; H, 4.49. Calc. for C11H9FN2O: C, 64.70; H, 4.44).

reactant | Benzyl chloride | 0.01 mol | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium | [K] | K
reactant | 5-fluoropyrimid-2-one | 0.007 mol | FC=1C=NC(NC1)=O | C4H3FN2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-5-fluoropyrimid-2-one | yield 50% | C(C1=CC=CC=C1)N1C(N=CC(=C1)F)=O | C11H9FN2O
